US07446216B2
2-(3,5-Dibromophenyl)-1H-indene
To a solution of 12.6 g (40.0 mmol) of 1,3,5-tribromobenzene in 400 ml of ether, 160 ml (40.0 mmol) of 0.25 M nBuLi in hexanes was added for 1 h at −80° C. The mixture was stirred for 1.5 h at this temperature, and then a solution of 5.29 g (40.0 mmol) of indanone-2 in 200 ml of ether was added dropwise over 1 hour while vigorously stirring. The reaction mixture was allowed to warm to room temperature and it was stirred at this temperature for 24 h. Then, 100 ml of water was added. The organic layer was separated; the aqueous layer was extracted with 3×50 ml of dichloromethane. The combined organic layers were dried over Na2SO4 and then evaporated to dryness. The residue was dissolved in 250 ml of toluene, and 0.75 g of p-TosOH was added. The resulting solution was refluxed for 1 hours using a Dean-Stark trap to remove the water formed. Next, the mixture was evaporated to dryness, and the product was isolated by flash-chromatography on Silica Gel 60 (d 50 mm, l 400 mm, eluent: hexanes). Yield 8.54 g (61%) of white powder.

reactant | 1,3,5-tribromobenzene | 40.0 mmol, 12.6 g | BrC1=CC(=CC(=C1)Br)Br | C6H3Br3
reactant | nBuLi | 40.0 mmol, 0.25 M, 160 ml | [Li]CCCC
reactant | water | 100 ml | O | H2O
solvent | ether | 400 ml | CCOCC | C4H10O
solvent | ether | 200 ml | CCOCC | C4H10O
product | 2-(3,5-Dibromophenyl)-1H-indene | BrC=1C=C(C=C(C1)Br)C=1CC2=CC=CC=C2C1 | C15H10Br2
